US08030311B2
A solution of (R/S)-5-(3-Amino-pyridin-2-ylamino)-3-oxo-indan-1-carboxylic acid ethyl ester (754 mg, 2.42 mmol) in triethyl orthoformate (25 mL) is heated at 145° C. for 30 min. The solvent is evaporated and the residue purified by flash chromatography eluting with Hexane/EtOAc. (R/S)-5-Imidazo[4,5-b]pyridine-3-yl-3-oxo-indan-1-carboxylic acid ethyl ester is obtained as a colourless solid. Title compound: 1H NMR: (DMSO-d6): 9.0 (s, 1H), 8.5 (d, 1H), 8.4 (d, 1H), 8.3 (s, 1H), 8.2 (d, 1H) 7.9 (d, 1H), 7.4 (dd, 1H) 4.5 (m, 1H), 4.2 (m, 2H), 3.0 (m, 2H), 1.2 (t, 3H); tR=1.2 min (System 2).

reactant | (R/S)-5-(3-Amino-pyridin-2-ylamino)-3-oxo-indan-1-carboxylic acid ethyl ester | 2.42 mmol, 754 mg | C(C)OC(=O)C1CC(C2=CC(=CC=C12)NC1=NC=CC=C1N)=O | C17H17N3O3
reactant | triethyl orthoformate | 25 mL | C(OCC)(OCC)OCC | C7H16O3
product | (R/S)-5-Imidazo[4,5-b]pyridine-3-yl-3-oxo-indan-1-carboxylic acid ethyl ester | C(C)OC(=O)C1CC(C2=CC(=CC=C12)N1C=NC=2C1=NC=CC2)=O | C18H15N3O3
